US06555577B1
(E)-Ethyl 3-(2′,3′-dichloro-biphenyl-4-yl)-but-2-enoate (1.07 g, 3.19 mmol) was reduced with DIBAL-H by a procedure analogous to that described in example 52b to give (E)-3-(2′,3′-dichloro-biphenyl-4-yl)-but-2-en-1-ol as a colourless solid; 0.74 g (79%).

reactant | (E)-Ethyl 3-(2′,3′-dichloro-biphenyl-4-yl)-but-2-enoate | 3.19 mmol, 1.07 g | ClC1=C(C=CC=C1Cl)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C18H16Cl2O2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
product | (E)-3-(2′,3′-dichloro-biphenyl-4-yl)-but-2-en-1-ol | ClC1=C(C=CC=C1Cl)C1=CC=C(C=C1)/C(=C/CO)/C | C16H14Cl2O
